US07666888B2
1-[(5-Methyl-3-phenylisoxazol-4-yl)carbonyl]-4-phenylpiperidin-4-ol
5-Methyl-3-phenylisooxazole-4-carboxylic acid (40 mg, 0.197 mmol), 4-hydroxy-4-phenylpiperidine (28.8 mg, 0.151 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (37.7 mg, 0.197 mmol) and triethylamine (59.8 mg, 0.591 mmol) were mixed in dichloromethane (2 mL) and stirred at room temperature over night. Solvent was evaporated in vacuo, and the residue was taken up in methanol (1 mL), filtered and purified by preparative chromatography. The combined fractions were partitioned between NaHCO3 (sat) and ethylacetate. The organic layer was washed with water and concentrated in vacuo to afford the title compound. HRMS (ESI, pos. ion) m/z calcd for C22H22N2O3: 362.1630, found 362.1627.

reactant | 5-Methyl-3-phenylisooxazole-4-carboxylic acid | 0.197 mmol, 40 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C11H9NO3
reactant | 4-hydroxy-4-phenylpiperidine | 0.151 mmol, 28.8 mg | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.197 mmol, 37.7 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.591 mmol, 59.8 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-[(5-Methyl-3-phenylisoxazol-4-yl)carbonyl]-4-phenylpiperidin-4-ol | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)N1CCC(CC1)(O)C1=CC=CC=C1 | C22H22N2O3
